US08557859B2
7-Azido-7-deoxy-1,4-di-O-methanesulphonyl-L-threo-L-talo-octitol (Qi, 1.6 g, 3.78 mmol) was dissolved in water (30 ml) and was treated with 10% palladium on carbon (400 mg) under an atmosphere of hydrogen for 16 h. T.l.c analysis (ethyl acetate:methanol, 9:1) indicated the disappearance of starting material (Rf 0.75) and the presence of a more polar product (Rf 0.05). Palladium was removed by filtration and the filtrate was treated with sodium acetate (930 mg, 11.34 mmol) at 60° C. for 16 h. The reaction mixture was cooled and the solvent removed in vacuo. The crude brown oil was purified by ion-exchange chromatography (Dowex 50WX8-100, eluting with 2M ammonium hydroxide) to afford (1R,2R,3S,6S,7R,7aR)-3-(hydroxymethyl)-1,2,6,7-tetrahydroxypyrrolizidine [3,7-diepi-Casuarine] Qj as a brown glass (671 mg, 87%): δH (D2O) 2.81-2.92 (m, 2H, H-5, H-5a), 3.16 (dd, 1H, J3,2 5.91 Hz, J3,8 10.74 Hz, H-3), 3.30 (app t, 1H, J 3.78 Hz, H-7), 3.76 (dd, 1H, J8,8a 6.35 Hz, H-8), 3.87 (dd, 1H, H-8a), 4.01 (d, 1H, J2,1 3.55 Hz, H-2), 4.04-4.12 (m, 2H, H-6, H-7), 4.29 (app t, 1H, H-1); δC (D2O) 49.32, 57.29, 63.78, 70.41, 72.59, 72.65, 74.47, 78.25; [α]D −21.1 (c 0.5, H2O).

reactant | 7-Azido-7-deoxy-1,4-di-O-methanesulphonyl-L-threo-L-talo-octitol | 3.78 mmol, 1.6 g | N(=[N+]=[N-])[C@H]([C@H]([C@@H]([C@H]([C@H]([C@H](COS(=O)(=O)C)O)O)OS(=O)(=O)C)O)O)CO | C10H21N3O11S2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | methanol | CO | CH4O
reactant | sodium acetate | 11.34 mmol, 930 mg | C(C)(=O)[O-].[Na+]
solvent | water | 30 ml | O | H2O
catalyst | palladium on carbon | 400 mg | [Pd] | Pd
product | (1R,2R,3S,6S,7R,7aR)-3-(hydroxymethyl)-1,2,6,7-tetrahydroxypyrrolizidine | OC[C@H]1[C@H]([C@@H]([C@H]2[C@H]([C@H](CN12)O)O)O)O | C8H15NO5
